US04452799
4-[4-(1,2-Benzisothiazol-3-yl)-1-piperazinyl]-1-(4-fluorophenyl)-1-butanone
Title product hydrochloride--A mixture of 2-(3-chloropropyl)-2-(4-fluorophenyl)-1,3-dioxane (4.31 g., 0.0176 mole), 3-(1-piperazinyl)-1,2-benzisothiazole (3.86 g., 0.0176 mole), powdered potassium carbonate (2.43 g., 0.0176 mole) and potassium iodide (0.88 g., 0.0053 mole) in 180 ml. of dry acetonitrile is refluxed for a 20 hr. period. The reaction mixture is filtered, concentrated in vacuo and residual oil dissolved in chloroform and filtered. Concentration of the filtrate affords an oily residue which is taken up in 100 ml. of ethanol containing 10 ml. of 3 N hydrochloric acid and refluxed for 15 min. period. Acetonitrile is added to the cooled mixture and the solid obtained collected, 3.3 g. m.p. 248°-250° C. Crystallization of this material from ethanol affords analytically pure 4-[4-(1,2-benzisothiazol-3-yl)-1-piperazinyl]-1-(4-fluorophenyl)-1-butanone hydrochloride, m.p. 251°-254° C.

reactant | hydrochloride | Cl | ClH
reactant | 2-(3-chloropropyl)-2-(4-fluorophenyl)-1,3-dioxane | 0.0176 mole, 4.31 g | ClCCCC1(OCCCO1)C1=CC=C(C=C1)F | C13H16ClFO2
reactant | 3-(1-piperazinyl)-1,2-benzisothiazole | 0.0176 mole, 3.86 g | N1(CCNCC1)C1=NSC2=C1C=CC=C2 | C11H13N3S
reactant | potassium carbonate | 0.0176 mole, 2.43 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.0053 mole, 0.88 g | [I-].[K+]
product | 4-[4-(1,2-Benzisothiazol-3-yl)-1-piperazinyl]-1-(4-fluorophenyl)-1-butanone | S1N=C(C2=C1C=CC=C2)N2CCN(CC2)CCCC(=O)C2=CC=C(C=C2)F | C21H22FN3OS
